US07524822B2
Preparation of 1,2-dihydro-1-(1-methylethyl)-5-methyl-3H-pyrazol-3-one (VI.1)
1-(1-methylethyl)-5-methyl-3-pyrazolidinone (390 g; 2.74 mol) is dissolved in acetic acid (170 ml) with warming. 35% aqueous hydrogen peroxide (260 ml; 3.0 mol) is added within 3 h while keeping the temperature at about 65° C. The reaction mixture is then stirred at about 20 to 25° C. for 15 h. Water (1.2 L) is then added and the pH of the mixture is adjusted to about 7 by means of addition of approx. 1 L 50%-weight aqueous sodium hydroxide solution. Upon cooling to 5° C. the reaction mixture is filtered. The product is washed with water and dried at about 50° C. Colourless crystals are obtained.

reactant | 1-(1-methylethyl)-5-methyl-3-pyrazolidinone | 2.74 mol, 390 g | CC(C)N1NC(CC1C)=O | C7H14N2O
reactant | hydrogen peroxide | 3.0 mol, 260 ml | OO | H2O2
reactant | Water | 1.2 L | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | 1,2-dihydro-1-(1-methylethyl)-5-methyl-3H-pyrazol-3-one | CC(C)N1NC(C=C1C)=O | C7H12N2O
